US06603005B2
A mixture of 0.15 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-fluoropropyl]-1-[2-(2,5-difluorophenoxy)ethyl]piperidine-4-carboxylate in 3 cm3 of dioxane, 3 cm3 of methanol and 1 cm3 of aqueous 5N sodium hydroxide solution was maintained at a temperature in the region of 70° C. for 4 hours. After cooling to about 20° C., the reaction mixture was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue was chromatographed under an atmospheric pressure of 60 kPa, on a Bond Elut of 60 cm3 of silica gel (particle size 70-200μ; mass 25 g), eluting with 60 cm3 of a dichloromethane/methanol/aqueous ammonia mixture (40/5/0.5 by volume) and then with a dichloromethane/methanol/aqueous ammonia mixture (40/5/2 by volume). The fractions containing the expected product were combined and then concentrated to dryness according to the same conditions as above. 0.04 g of 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-fluoropropyl]-1-[2-(2,5-difluorophenoxy)ethyl]piperidine-4-carboxylic acid was obtained in the form of a white solid.

reactant | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-fluoropropyl]-1-[2-(2,5-difluorophenoxy)ethyl]piperidine-4-carboxylate | 0.15 g | ClC=1C=NC2=CC=C(C=C2C1C(CCC1(CCN(CC1)CCOC1=C(C=CC(=C1)F)F)C(=O)OCC)F)OC | C29H32ClF3N2O4
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | dioxane | 3 cm3 | O1CCOCC1 | C4H8O2
solvent | methanol | 3 cm3 | CO | CH4O
product | 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-fluoropropyl]-1-[2-(2,5-difluorophenoxy)ethyl]piperidine-4-carboxylic acid | 0.04 g | ClC=1C=NC2=CC=C(C=C2C1C(CCC1(CCN(CC1)CCOC1=C(C=CC(=C1)F)F)C(=O)O)F)OC | C27H28ClF3N2O4
